* source PROIECT
V_Vcc         +VCC 0 15V
V_-Vcc         0 -VCC 15V
R_R1         VO_DIV1 +VCC R_R1 78.7k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
R_R2         0 VO_DIV1  {R} TC=0,0 
R_R3         N01917 N02306 R_R3 1k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
R_R4         N22636 AO R_R4 5.23k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         V_REF1 N02428 R_R5 1k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
R_R13         OUT N03820 R_R13 158k TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
R_R14         N21753 +VCC R_R14 360 TC=0,0 
.model        R_R14 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         N06316 N22753 R_R9 28.7k TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         0 VREF2 R_R10 583 TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
R_R11         VREF2 +VCC R_R11 1k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
R_R8         AO N06316 R_R8 11k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
D_D2          N21731 0 YellowLED 
R_R12         N21731 OUT R_R12 357 TC=0,0 
.model        R_R12 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         V_REF1 +VCC R_R7 1k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
R_R6         0 V_REF1 R_R6 782 TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
Q_Q2         N21753 N03820 0 BC108C 
X_U7         N06316 VREF2 +VCC -VCC N17258 LM741
X_U8         N02428 N02306 +VCC -VCC AO LM741
X_U9         VO_DIV1 N01917 +VCC -VCC N01917 LM741
X_U10         OUT N17258 +VCC 0 OUT LM741
R_R15         N22753 N17258 R_R15 604 TC=0,0 
.model        R_R15 RES R=1 DEV=1% TC1=0 TC2=0
R_R16         N02306 N22636 R_R16 6.98 TC=0,0 
.model        R_R16 RES R=1 DEV=1% TC1=0 TC2=0
.PARAM  m_carbon=200 r={((-8.8889*{m_carbon}) + 79444)}
